US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(2-mercapto-3H-benzimidazol-5-yl)-2-oxo-acetamide (45 70002567)
The title compound is prepared from N-(2-mercapto-3H-benzimidazol-5-yl)-oxalamic acid and 4-benzyl-piperidine according to the method described in Example 1c. Melting Point: 277-281° C. (diethylether)

reactant | N-(2-mercapto-3H-benzimidazol-5-yl)-oxalamic acid | SC=1NC2=C(N1)C=CC(=C2)NC(C(=O)O)=O | C9H7N3O3S
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(2-mercapto-3H-benzimidazol-5-yl)-2-oxo-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC2=C(N=C(N2)S)C=C1)=O | C21H22N4O2S
